.include pmos_nmos_3p3_wrapper.spice
* Auto TB for inv
.include /mnt/e/MyResearch/Mixed_ngspice/test/models/45nm_LP_BSIM4/ptm45lp.lib
.option gmin=1e-12
* NGSPICE file created from inv.ext - technology: gf180mcuC

.subckt inv in out gp vdx vdh vss bp
X0 d2 in out vss nmos_3p3 w=1.8u l=0.6u
X1 d3 in vss vss nmos_3p3 w=1.8u l=0.6u
X2 vdh gp vdx vdh pmos_6p0 w=1.8u l=0.6u
X3 vdx in out bp pmos_3p3 w=1.5u l=0.6u
X4 vdx in out bp pmos_3p3 w=1.5u l=0.6u
X5 out in vdx bp pmos_3p3 w=1.5u l=0.6u
X6 vdx gp vdh vdh pmos_6p0 w=1.8u l=0.6u
X7 out in d1 vss nmos_3p3 w=1.8u l=0.6u
X8 out in vdx bp pmos_3p3 w=1.5u l=0.6u
X9 out in vdx bp pmos_3p3 w=1.5u l=0.6u
X10 vdx in out bp pmos_3p3 w=1.5u l=0.6u
X11 vdh gp vdx vdh pmos_6p0 w=1.8u l=0.6u
X12 vdh gp vdx vdh pmos_6p0 w=1.8u l=0.6u
X13 vdx gp vdh vdh pmos_6p0 w=1.8u l=0.6u
X14 d1 in vss vss nmos_3p3 w=1.8u l=0.6u
X15 vdx gp vdh vdh pmos_6p0 w=1.8u l=0.6u
X16 vdx in out bp pmos_3p3 w=1.5u l=0.6u
X17 vss in d4 vss nmos_3p3 w=1.8u l=0.6u
X18 vdx gp vdh vdh pmos_6p0 w=1.8u l=0.6u
X19 out in vdx bp pmos_3p3 w=1.5u l=0.6u
X20 vdh gp vdx vdh pmos_6p0 w=1.8u l=0.6u
X21 vss in d2 vss nmos_3p3 w=1.8u l=0.6u
X22 out in d3 vss nmos_3p3 w=1.8u l=0.6u
X23 d4 in out vss nmos_3p3 w=1.8u l=0.6u
C0 vdx bp 0.70fF
C1 in out 1.28fF
C2 vdx gp 3.50fF
C3 d4 out 0.19fF
C4 d3 out 0.19fF
C5 vdx vdh 2.88fF
C6 vdx out 1.57fF
C7 vdh bp 0.30fF
C8 d2 out 0.19fF
C9 vdh gp 1.27fF
C10 out bp 0.36fF
C11 vdx in 0.49fF
C12 in bp 0.90fF
C13 d1 out 0.19fF
.ends



Vdd in 0 DC 1.8
Vss vss 0 DC 0
X1 in out gp vdx vdh vss bp inv
.op
.control
op
.endc
.end
